US07576094B2
1-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)ethanone (100 mg) was dissolved in dichloromethane (2 mL), to which solution was added BBr3 (19.3 mL) at 10° C. After 1.5 h, it was quenched with water, extracted with dichloromethane, and the organic layers were washed with brine, dried and evaporated to give an oil. Elution on a column (dichloromethane:methanol=10:0.2) gave 6′-hydroxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-carbaldehyde (70 mg) as a white solid.

reactant | 1-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)ethanone | 100 mg | COC=1C=C2CC3(CN(C2=C(C1C)C)C(C)=O)CCC3 | C17H23NO2
reactant | BBr3 | 19.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6′-hydroxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-carbaldehyde | 70 mg | OC=1C=C2CC3(CN(C2=C(C1C)C)C=O)CCC3 | C15H19NO2
